US06060484
A. Cyclohexyl acetonitrile
A solution of sodium cyanide (2.77 g, 56.5 mmol) in 70 ml of DMF was treated with cyclohexyl bromide (7.9 ml, 56.5 mmol), under N2. The reaction mixture was reacted for 48 hours and then partitioned between EtOAc and H2O. The resultant layers were separated and the organic layer was concentrated in vacuo. The crude material was purified using flash chromatography (eluent of 5% EtOAc in hexanes).

reactant | sodium cyanide | 56.5 mmol, 2.77 g | [C-]#N.[Na+]
reactant | cyclohexyl bromide | 56.5 mmol, 7.9 ml | C1(CCCCC1)Br | C6H11Br
reactant | DMF | 70 ml | CN(C)C=O | C3H7NO
product | Cyclohexyl acetonitrile | C1(CCCCC1)CC#N | C8H13N
